2120-06-21 07:56:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Pt with poor urine output overnight. Tolerating the ventilator
   without difficulty.
   - Started on Dopamine. Levophed and neosynephrine weaned off.
   - ECG repeated which showed resolution of global WCT in limb leads.
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Imdur (Oral) (Isosorbide Mononitrate)
   Arrhythmia/Palp
   Lisinopril (Oral)
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 2 mg/hour
   Fentanyl - 100 mcg/hour
   Dopamine - 5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-21**] 06:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 34.8
C (94.6
   Tcurrent: 2.3
C (36.2
   HR: 63 (60 - 91) bpm
   BP: 87/61(66) {82/29(66) - 108/76(87)} mmHg
   RR: 8 (8 - 38) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                    930 mL
                                                                    307 mL
   PO:
             TF:
   IVF:
                                                                    930 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    930 mL
                                                                    307 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 20
   RR (Spontaneous): 21
   PEEP: 10 cmH2O
   FiO2: 70%
   RSBI Deferred: PEEP > 10
   PIP: 33 cmH2O
   Plateau: 26 cmH2O
   Compliance: 34.4 cmH2O/mL
   SpO2: 99%
   ABG: 7.32/41/104/23/-4
   Ve: 10.6 L/min
   PaO2 / FiO2: 149
   Physical Examination
   VS: T= 94.6 BP=82/63 - 108/67 HR=72 - 91 Sat: 95-100%,
   AC(550/20/10/100%)
   GENERAL: Pt intubated. Sedated.
   HEENT: Sclera anicteric. Pupuls 2mm bilaterally, PERRL.
   NECK: Supple with JVP of 16cm.
   CARDIAC: Irregular with no murmur/rubs/gallops
   LUNGS: Course breath sounds anterior lung fields, no rhonchi/crackles.
   Unable to assess lower lobes given positioning.
   ABDOMEN: Difficult to assess given cool suit. Soft, ND.
   EXTREMITIES: 1+ dependent lower extremity edema. No clubbing/cyanosis
   appreciated. Distal extremities cool to touch.
   SKIN: No other rashes, bruising appreciated.
   PULSES:
   R: 1+ Radial, Diminished DP, PT
   L: Diminished Radial, DP, PT
   Neuro: Pupils 2mm equal and reactive to light. Increased tone in
   bilateral upper and lower extremity. Unable to illicit patellar,
   tricep, or bicep reflex. Bilateral upgoing toes.
   Labs / Radiology
   124 K/uL
   11.2 g/dL
   139 mg/dL
   2.3 mg/dL
   23 mEq/L
   4.2 mEq/L
   357mg/dL
   107 mEq/L
   142 mEq/L
   38.9 %
   11.4 K/uL
        [image002.jpg] Mag: 2.4 Phos: 4.7 Ca: 8.9
                             [**2120-6-20**]  08:19 PM
                             [**2120-6-20**]  09:49 PM
                             [**2120-6-21**]  02:09 AM
                             [**2120-6-21**]  06:19 AM
   WBC
   8.3
   11.4
   Hct
   38.9
   38.9
   Plt
   129
   124
   Cr
   1.9
   2.2
   2.3
   TropT
   0.10
   TCO2
   19
   22
   Glucose
   251
   155
   Other labs: INR: 3.3, CK / CKMB / Troponin-T:116/7/0.10, Lactic
   Acid:5.6 mmol/L, Ca++:8.8 mg/dL, Mg++:2.5 mg/dL, PO4:4.7 mg/dL
   CK: Increased to 180.
   Digoxin: 0.6
   ProBNP: [**Numeric Identifier 7772**]
   Microbiology:
   Blood Cultures ([**6-20**]): Pending
   Studies:
   CT Head [**6-20**]: No acute intracranial process.
   ECHO [**6-20**]: The right atrium is moderately dilated. The left ventricular
   cavity is moderately dilated. Overall left ventricular systolic
   function is severely depressed (LVEF= 15%). Moderate to severe (3+)
   mitral regurgitation is seen.
   CXR [**6-20**]: Marked cardiomegaly, with patchy perihilar opacities most
   consistent with pulmonary edema. There are accompanying small
   effusions. 2. Endotracheal tube in appropriate position 6 cm above the
   carina.
   Assessment and Plan
   73M with h/o severe cardiomyopathy (EF [**9-19**]) s/p biV/ICD ([**2115**]),  afib
   on coumadin and dig, rheumatic heart disease s/p mitral valve repair in
   [**2109**] with residual 3+ MR, CRI, h/o CVA who was found unreponsive and
   s/p cardiac arrest from unknown etiology with multiple rounds of ICD
   firing and ACLS/CPR now intubated, on cooling protocol and pressor
   support.
   .
   # s/p CARDIAC ARREST: Unclear precipitant, but etiologies of arrhythmia
   include electrolyte abnomalities such as hypokalemia, BiV/ICD
   anti-tachycardia pacing (ATP) inducing wide complex tachycardia for
   sensed atrial tachycardia, or arrythmia in setting of dig toxicity or
   possible cocaine use. Likely multifactorial as hypokalemia lowers
   threshold for arrythmias, predisposes to dig toxicity. By overnight ICD
   interrogation, patient had 6 episodes of ineffective ATP leading to
   shock with one episode at 11am, and one at 4:46pm which may correlate
   with patient's episodes of unresponsiveness. Initial lytes showed
   hypokalemia, acidemia. Utox for cocaine and dig level pending. No
   evidence of ACS as etiology. Patient s/p multiple episodes of loss of
   pulse with wide complex tachycardia, so started on cooling protocol
   overnight. Family aware of critical status.  He did not have goot urine
   output overnight, and therefore he likely needs inotropes in order to
   increase contractility and cardiac output in order to accurately
   diurese with Lasix.
   - will keep K>5.0 in order to prevent arrhythmias (about 80mEq of K
   today as long as creatinine stable or less, will check 10am)
   - start Milrinone gtt to act as inotrope (and stop dopamine when start
   milrinone)
   - add neosynephrine as needed to support blood pressure
   - when milrinone/neo have taken effect, start Lasix gtt in order to
   diurese
   - will use beta-blockers to prevent arrhythmias in the setting of
   milrinone
   - Q4hr lytes on cooling protocol, including coags and closely follow K
   (will maintain >5.0)
   - cardiac arrest team and Neuro EEG ICU team aware and will be
   following patient, appreciate recs
   - formal EP consult today, will follow on their recs
   - ECHO
   - Continue cooling protocol with time of goal temperature reached at
   8:30pm. Cool for 18-24hrs, then rewarm slowly), then after patient
   warmed do thorough neuro exam to assess residual functional status
   - order for continuous EEG monitor, neuro will be following
   - f/u Utox screen
   - defibrillator pads in place
   - patient on IV steroid clinical trial per protocol
   .
   # RHYTHM/WIDE COMPLEX TACHYCARDIA: Patient's ECGs showing irregular
   wide complex tachycardia concerning for polymorphic VT with possible
   positive concordance, which went in/out of pulseless VT/VF requiring
   shocks/ACLS/CPR for regaining of pulse. Unclear what rhythm patient in
   when pacer initiated ATP/shock and whether was appropriate. Currently
   patient with pulse, on pressor support. Patient's baseline rhythm was
   afib with ventricular pacing, BiV/ICD in place. On coumadin and digoxin
   at baseline. Recent INR was therapeutic, unclear compliance with
   medications.
   - monitor on telemetry
   - EP consult in AM
   - IV amio bolus prn return to fast VT
   - follow lytes closely, aggressively replete K (>5.0), Mg (>2)
   - follow INR, hold coumadin as supratherapeutic and pts become
   coagulopathic on cooling protocol
   - hold carvedilol while patient on pressor support
   - Hold Digoxin for now.
   .
   # PUMP/DECOMPENSATED SYSTOLIC CHF: Patient with known severe
   cardiomyopathy from valvular dz/NYHA IV sCHF with EF 10-15%. Followed
   by Dr [**First Name (STitle) **] in heart failure clinic. Recent OMR notes indicate increase
   in LE edema suggesting decompensated heart failure with plan for
   increase in lasix, but unclear if patient had been taking this. By
   exam, patient appears hypervolemic with elevated JVD, effusion on CXR,
   and LE edema. BNP [**Numeric Identifier 7772**]. Given 20mg IV lasix overnight with only 50cc
   of urine produced.
   - Start milrinone/neo/lasix as above
   - Hold carvedilol for now.
   - Hold Digoxin for now.
   .
   # CORONARIES: No known CAD or risk factors. Clean coronaries on last
   cath [**2114**]. No h/o chest pain, no indication of ACS as cause of cardiac
   arrest at this time. Enzymes: CK / CKMB / Troponin-T:116/7/0.10
   - follow ECGs
   .
   # RESPIRATORY FAILURE: Patient intubated in setting of unresponsiveness
   and cardiac arrest. No known pulmonary history, but may be component of
   fluid overload from decompensated heart failure. ABG improved this AM
   with PH 7.32/41/104. FI02 decreased to 70 %
   - continue intubated for now, adjust vent settings to improve
   oxygenation
   - follow ABGs, and if INR continues to normalize, consider a-line
   placement in AM
   - diuresis with IV lasix as above
   .
   # METABOLIC ACIDOSIS: Patient initial ABG of 7.16/32/189 showed triple
   acid base disorder of primary AG metabolic acidosis likely [**1-8**] lactic
   acidosis and acute renal failure, with concomitant non gap metabolic
   acidosis and respiratory acidosis (from
   hypoventilation/unresponsiveness). Slightly improved after intubation,
   possible fluids in ED. Initial lactate 5.6, Cr up from 1.2-> 1.9
   overnight. ABG improving as noted above.
   -          follow ABGs or VBG
s, adjust ventilator settings, follow
   lactate/renal function.
   -          Replete lytes. Hold on fluids given patient appears volume
   overloaded.
   .
   # ACUTE ON CHRONIC RENAL FAILURE: Cr increased to 1.9 from baseline of
   1.2-1.6. Likely in setting of poor forward flow during cardiac arrest
   in patient with low EF
   - follow Cr
   - renally dose meds
   - monitor UOP
   - send Ulytes, and check LFT
   # ACCESS: Currently has R femoral line placed in the ED.  Also with an
   INR of 3.3 this morning.  Although femoral lines represent an increased
   risk of infection, at this time the risks of putting a new line in with
   an increased INR outweigh the benefits at this time.
   - Keep femoral line for now.
   - When patient
s INR decreases, will change to different access
   .
   FEN: NPO for now
   ..
   PROPHYLAXIS:
   -DVT ppx with supratherapeutic INR - if no longer therapeutic then
   start SC heparin
   -Pain management with fentanyl/versed
   .
   CODE: FULL CODE confirmed with family, ICU consent signed
   .
   COMM: Daughter [**First Name8 (NamePattern2) 7755**] [**Known lastname 3746**] ([**Telephone/Fax (1) 7756**] (1^st person for updates),
   Sister [**Name (NI) 228**] [**Name (NI) 7679**] ([**Telephone/Fax (1) 7757**] (the HC proxy, makes all
   decisions). Update [**First Name8 (NamePattern2) 7758**] [**Last Name (NamePattern1) **] in AM, was contact[**Name (NI) **] overnight by
   cardiac arrest team.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition: NPO for now
   Glycemic Control: TID fingersticks
   Lines: R femoral triple lumen, PIVs
   Multi Lumen - [**2120-6-20**] 07:00 PM
   Prophylaxis:
   DVT: supratherapeutic INR - if no longer therapeutic then start SC
   heparin
   Stress ulcer:
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Daughter [**First Name8 (NamePattern2) 7755**] [**Known lastname 3746**] ([**Telephone/Fax (1) 7756**], Sister
   [**Name (NI) 228**] [**Name (NI) 7679**] ([**Telephone/Fax (1) 7757**]. Update [**First Name8 (NamePattern2) 7758**] [**Last Name (NamePattern1) **] in AM, was contact[**Name (NI) **]
   overnight by cardiac arrest team.
   Code status: FULL CODE confirmed with family, ICU consent signed
   Disposition: CCU for now

2120-06-22 07:45:00 Physician Attending Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Started on milrinone, neosynephrine, and lasix gtt yesterday.
    Hypotensive with MAP's ~55.  Neosynephrine increased throughout the
   day for hypotension.  .  Phenylep. Maxed at 5 now at 4.
   - Warming started 2:30pm, finished 6 hours later.  Had increased ectopy
   with warming. Patient having LOTS of ectopy so milrinone stopped;
   - Gave metoprolol 2.5mg IV x 2 for ectopy, and 12.5mg po bid standing
   Not putting out ANY urine, likely ATN in the setting of hypotension
   20cc/hour of lasix, since no UOP; stopped secondary to increasing fluid
   input and not able to diurese; and consider bolusing prn
   - Cr: 5am 2.3, 10am 2.5, 2pm 2.7, 6pm 2.9, 10pm 3.0 , this AM 3.5 (not
   urinating at all)
    Weaned sedation overnight.  Without versed, patient started having
   facial twitching and myoclonus with any provocation.  Put small amount
   of versed back on board.  Still on some fentanyl. Neurology consulted:
   states myoclonus is not seizure activity; none seen; if want to assess
   further cortical activity, attempt to lift sedation.
   .
   .
   - K: 5am 4.2, 10am 4.5 (gave 20mEq po crushed via NGT), 2pm 4.3, 6pm
   4.1 (gave 20mEq), 10pm 4.3; this AM 4.4
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Imdur (Oral) (Isosorbide Mononitrate)
   Arrhythmia/Palp
   Lisinopril (Oral)
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Phenylephrine - 4 mcg/Kg/min
   Fentanyl - 25 mcg/hour
   Other ICU medications:
   Furosemide (Lasix) - [**2120-6-21**] 12:00 PM
   Metoprolol - [**2120-6-21**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2120-6-22**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 82 (60 - 110) bpm
   BP: 90/59(69) {74/42(54) - 98/62(71)} mmHg
   RR: 17 (0 - 21) insp/min
   SpO2: 99%
   Heart rhythm: V Paced
             Total In:
                                                                  1,738 mL
                                                                    386 mL
   PO:
             TF:
   IVF:
                                                                  1,558 mL
                                                                    386 mL
   Blood products:
   Total out:
                                                                    108 mL
                                                                     10 mL
   Urine:
                                                                    108 mL
                                                                     10 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,630 mL
                                                                    377 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 550) mL
   Vt (Spontaneous): 692 (692 - 692) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   (500, 16, 8, 40) Pip: 23, Plat 17
   RSBI Deferred: Agitated
   PIP: 23 cmH2O
   Plateau: 17 cmH2O
   SpO2: 99%
   ABG: 7.33/33/130/16/-7
   Ve: 8.9 L/min
   PaO2 / FiO2: 325
   Physical Examination
   GENERAL: Pt intubated. Sedated.
   HEENT: Sclera anicteric. Pupuls 2mm bilaterally, PERRL.
   NECK: Supple with JVP of 16cm.
   CARDIAC: Irregular with no murmur/rubs/gallops
   LUNGS: Course breath sounds anterior lung fields, no rhonchi/crackles.
   Unable to assess lower lobes given positioning.
   ABDOMEN: Difficult to assess given cool suit. Soft, ND.
   EXTREMITIES: 1+ dependent lower extremity edema. No clubbing/cyanosis
   appreciated. Distal extremities cool to touch.
   SKIN: No other rashes, bruising appreciated.
   PULSES:
   R: 1+ Radial, Diminished DP, PT
   L: Diminished Radial, DP, PT
   Neuro: Pupils 2mm equal and reactive to light. Increased tone in
   bilateral upper and lower extremity. Unable to illicit patellar,
   tricep, or bicep reflex. Bilateral upgoing toes.
   Labs / Radiology
   10.6 g/dL
   141 K/uL
   141 mg/dL
   3.5 mg/dL
   16 mEq/L
   4.4 mEq/L
   49 mg/dL
   105 mEq/L
   137 mEq/L
   35.0 %
   12.2 K/uL
        [image002.jpg]
                                     pH
                                    7.33
                                    pCO2
                                     33
                                     pO2
                                     130
                                    HCO3
                                     18
                                   BaseXS
                                     -7
   Type:Art
   Lactate:2.8
   - ABG's: 7.38/30/178/18/-5 then 7.36/33/159/19/-5 (turned down FiO2 and
   RR)
                             [**2120-6-21**]  09:51 AM
                             [**2120-6-21**]  12:04 PM
                             [**2120-6-21**]  06:00 PM
                             [**2120-6-21**]  07:17 PM
                             [**2120-6-21**]  09:32 PM
                             [**2120-6-21**]  10:54 PM
                             [**2120-6-21**]  11:15 PM
                             [**2120-6-22**]  01:11 AM
                             [**2120-6-22**]  04:48 AM
                             [**2120-6-22**]  05:00 AM
   WBC
   10.9
   12.2
   Hct
   35.0
   35.0
   Plt
   122
   141
   Cr
   2.5
   2.7
   2.9
   3.0
   3.5
   TropT
   0.29
   TCO2
   18
   19
   19
   17
   18
   Glucose
   134
   111
   109
   127
   141
   Other labs: PT / PTT / INR:57.8/48.7/6.5, CK / CKMB /
   Troponin-T:212/24/0.29, ALT / AST:52/80, Alk Phos / T Bili:119/1.4,
   Differential-Neuts:93.7 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.2 %, Lactic
   Acid:2.8 mmol/L, Albumin:3.5 g/dL, LDH:348 IU/L, Ca++:9.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:6.4 mg/dL; ALT: 52 AST 80 Alk Phos 119 Total Bili
   1.4
   EEG and todays CXR pending
   [**2120-6-21**]: CXR: ET tube in standard placement, nasogastric tube ends in
   the upper stomach, no pneumothorax or pulmonary edema. Pleural
   effusions are small if any. Severe cardiomegaly and enlarged pulmonary
   arteries are longstanding. Transvenous right ventricular pacer
   defibrillator, right atrial and left ventricular pacer leads are
   unchanged in standard placements continuous from the right axillary
   power pack. Two remnant left-sided leads end in the right atrium and
   right ventricle respectively. No pneumothorax
   Assessment and Plan
   Assessment and Plan
   73M with h/o severe cardiomyopathy (EF [**9-19**]) s/p biV/ICD ([**2115**]),  afib
   on coumadin and dig, rheumatic heart disease s/p mitral valve repair in
   [**2109**] with residual 3+ MR, CRI, h/o CVA who was found unreponsive and
   s/p cardiac arrest from unknown etiology with multiple rounds of ICD
   firing and ACLS/CPR now intubated, pressor support.
   .
   # s/p CARDIAC ARREST: Unclear precipitant, but etiologies of arrhythmia
   include electrolyte abnomalities such as hypokalemia, BiV/ICD
   anti-tachycardia pacing (ATP) inducing wide complex tachycardia for
   sensed atrial tachycardia, or arrythmia in setting of dig toxicity or
   possible cocaine use. Likely multifactorial as hypokalemia lowers
   threshold for arrythmias, predisposes to dig toxicity. By overnight ICD
   interrogation, patient had 6 episodes of ineffective ATP leading to
   shock with one episode at 11am, and one at 4:46pm which may correlate
   with patient's episodes of unresponsiveness. Initial lytes showed
   hypokalemia, acidemia. Utox for cocaine and dig level pending. No
   evidence of ACS as etiology. Patient s/p multiple episodes of loss of
   pulse with wide complex tachycardia, so started on cooling protocol
   overnight. Family aware of critical status.  He did not have goot urine
   output overnight, and therefore he likely needs inotropes in order to
   increase contractility and cardiac output in order to accurately
   diurese with Lasix.
   - will keep K>5.0 in order to prevent arrhythmias (about 80mEq of K
   today as long as creatinine stable or less, will check 10am)
   - Continue Milrinone gtt to act as inotrope
   - Continue neosynephrine as needed to support blood pressure
   - when milrinone/neo have taken effect, start Lasix gtt in order to
   diurese
   - will use beta-blockers to prevent arrhythmias in the setting of
   milrinone
   - Q8hr lytes, including coags and closely follow K (will maintain >5.0)
   - cardiac arrest team and Neuro EEG ICU team aware and will be
   following patient, appreciate recs
   - ECHO: EF of [**9-24**]%
   - continuous EEG monitor, neuro will be following
   - Utox screen shows no drug etiologies
   - defibrillator pads in place
   - patient on IV steroid clinical trial per protocol
   .
   # RHYTHM/WIDE COMPLEX TACHYCARDIA: Patient's ECGs showing irregular
   wide complex tachycardia concerning for polymorphic VT with possible
   positive concordance, which went in/out of pulseless VT/VF requiring
   shocks/ACLS/CPR for regaining of pulse. Unclear what rhythm patient in
   when pacer initiated ATP/shock and whether was appropriate. Currently
   patient with pulse, on pressor support. Patient's baseline rhythm was
   afib with ventricular pacing, BiV/ICD in place. On coumadin and digoxin
   at baseline. Recent INR was therapeutic, unclear compliance with
   medications.
   -  re-start milrinone as needed; consider amiodorone
   -  monitor on telemetry
   - Beta blocker
   - follow lytes closely, aggressively replete K (>5.0), Mg (>2)
   - follow INR, hold coumadin as supratherapeutic on admission
   - hold carvedilol while patient on pressor support
   - Hold Digoxin for now.
   .
   # PUMP/DECOMPENSATED SYSTOLIC CHF: Patient with known severe
   cardiomyopathy from valvular dz/NYHA IV sCHF with EF 10-15%. Followed
   by Dr [**First Name (STitle) **] in heart failure clinic. Recent OMR notes indicate increase
   in LE edema suggesting decompensated heart failure with plan for
   increase in lasix, but unclear if patient had been taking this. By
   exam, patient appears hypervolemic with elevated JVD, effusion on CXR,
   and LE edema. BNP [**Numeric Identifier 7772**]. Given 20mg IV lasix overnight with only 50cc
   of urine produced.
   - Continue milrinone/neo/lasix as above and wean off as tolerated
   - Hold carvedilol for now.
   - Hold Digoxin for now.
   - Continue metoprolol to aid with ectopy
   .
   # CORONARIES: No known CAD or risk factors. Clean coronaries on last
   cath [**2114**]. No h/o chest pain, no indication of ACS as cause of cardiac
   arrest at this time. Enzymes: CK / CKMB / Troponin-T:116/7/0.10
   - follow ECGs
   .
   # RESPIRATORY FAILURE: Patient intubated in setting of unresponsiveness
   and cardiac arrest. No known pulmonary history, but may be component of
   fluid overload from decompensated heart failure. ABG improved this AM
   - continue intubated for now, adjust vent settings to improve
   oxygenation
   - follow ABGs, and if INR continues to normalize, consider a-line
   placement in AM
   - diuresis with IV lasix as above
   - Wean ssedation as tolerated
   .
   # METABOLIC ACIDOSIS: Patient initial ABG of 7.16/32/189 showed triple
   acid base disorder of primary AG metabolic acidosis likely [**1-8**] lactic
   acidosis and acute renal failure, with concomitant non gap metabolic
   acidosis and respiratory acidosis (from
   hypoventilation/unresponsiveness). Slightly improved after intubation,
   possible fluids in ED. Initial lactate 5.6, Cr up from 1.2-> 1.9
   overnight. ABG improving as well as lactate
   -          follow ABGs or VBG
s, adjust ventilator settings, follow
   lactate/renal function.
   -          Replete lytes. Hold on fluids given patient appears volume
   overloaded.
   .
   # ACUTE ON CHRONIC RENAL FAILURE: Cr increased to 1.9 from baseline of
   1.2-1.6. Likely in setting of poor forward flow during cardiac arrest
   in patient with low EF; NO UOP; likely ATN
   - follow Cr
   - renally dose meds
   - monitor UOP
   - send Ulytes, and check LFT
   - Consider renal consult for possible HD
   #Myoclonus- patient with myoclonus and decreased cortical activity on
   sedation; sedation now stopped;
          -       Re-start sedation if patient cannot tolerate
   -          Neuro consulting and appreciate recs; call back when all
   sedation is out of system
   #Leucocytosis- WBC: 12.2; likely stress response but cannot rule out
   infection
   -          Blood cultures and re-check this afternoon
   -          If positive, consider antibiotics
   # Coagulation: INR 6.5 this AM; started 5 mg of Vitamin K;
          -        Continue to monitor and give vitamin K for the next
   three days.
   # ACCESS: Currently has R femoral line placed in the ED.  Also with an
   INR of 6.5 this morning.  Although femoral lines represent an increased
   risk of infection, at this time the risks of putting a new line in with
   an increased INR outweigh the benefits at this time.
   - Keep femoral line for now.
   - When patient
s INR decreases, will change to different access
   ..
   PROPHYLAXIS:
   -DVT ppx with supratherapeutic INR - if no longer therapeutic then
   start SC heparin
   -Pain management with fentanyl/versed and wean as tolerated
   .
   COMM: Daughter [**First Name8 (NamePattern2) 7755**] [**Known lastname 3746**] ([**Telephone/Fax (1) 7756**] (1^st person for updates),
   Sister [**Name (NI) 228**] [**Name (NI) 7679**] ([**Telephone/Fax (1) 7757**] (the HC proxy, makes all
   decisions). Update [**First Name8 (NamePattern2) 7758**] [**Last Name (NamePattern1) **] in AM, was contact[**Name (NI) **] overnight by
   cardiac arrest team.
   ICU Care
    Nutrition: NPO for now; start tube feeds today.
   Glycemic Control: TID fingersticks
   Lines: R femoral triple lumen, PIVs
   Multi Lumen - [**2120-6-20**] 07:00 PM
   Arterial Line: left arm
   Prophylaxis:
   DVT: supratherapeutic INR - if no longer therapeutic then start SC
   heparin
   Stress ulcer:
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Daughter [**First Name8 (NamePattern2) 7755**] [**Known lastname 3746**] ([**Telephone/Fax (1) 7756**], Sister
   [**Name (NI) 228**] [**Name (NI) 7679**] ([**Telephone/Fax (1) 7757**]. Update [**First Name8 (NamePattern2) 7758**] [**Last Name (NamePattern1) **] in AM, was contact[**Name (NI) **]
   overnight by cardiac arrest team.
   Code status: FULL CODE confirmed with family, ICU consent signed
   Disposition: CCU for now
   ------ Protected Section ------
   Neuro and renal status remain poor with uncertainty over whether there
   will be any meanigful neuro recovery.  Neuro service on board.  For now
   we will continue supportive care but will attempt to get more
   definitive neurologic prognostication before escalating therapy (such
   as hemodialysis0
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) **]  on:[**2120-6-22**]
   11:14 ------

2120-06-23 07:11:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Milrinone restarted w/o bolus at .375mcg/kg/min (mistakingly given at
   0.25 mcg/kg/min until [**2110**] [**6-22**]) changed to 0.375 and patient with
   increased NSVT about every other beat; Started amio 400 po TID, but
   NSVT did not decrease; so switched back down to 0.25 and ectopy
   decreased in frequency
   - Neo 3 until midnight, then continued on 4;
   FDP High 40-80; fibrinogen: 284 INR: 6.5; likely DIC---> given 4 units
   FFP for IJ procedure, which will help...Will check DIC labs again at
   [**2110**] [**6-22**].
   - LFT's trending down...unlikely shock liver. Continue to monitor with
   AM labs
   - Right IJ placed [**2120-6-22**]; Femoral pulled [**2120-6-22**] on 4 units FFP; CXR
   OK to use, no pneumo and in distal SVC.
   - Contact[**Name (NI) **] Neuro: Resident isn't sure about further studies that can
   be done, will contact attending and get back with us. Continue to hold
   sedation as that is what neuro will want; try not to give anything for
   myoclonus if can help it, as treatment may do more harm than good (Tx
   is likely low dose benzos)
   Allergies:
   Iodine; Iodine Containing
   Unknown;
   Imdur (Oral) (Isosorbide Mononitrate)
   Arrhythmia/Palp
   Lisinopril (Oral)
   Renal Toxicity;
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.25 mcg/Kg/min
   Phenylephrine - 4 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   unable to obtain
   Flowsheet Data as of  [**2120-6-23**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 112 (73 - 130) bpm
   BP: 92/59(69) {78/46(55) - 108/67(79)} mmHg
   RR: 19 (0 - 24) insp/min
   SpO2: 97%
   Heart rhythm: V Paced
             Total In:
                                                                  2,508 mL
                                                                    568 mL
   PO:
             TF:
                                                                    130 mL
                                                                    247 mL
   IVF:
                                                                  1,034 mL
                                                                    291 mL
   Blood products:
                                                                  1,164 mL
   Total out:
                                                                    110 mL
                                                                     72 mL
   Urine:
                                                                    110 mL
                                                                     72 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,398 mL
                                                                    496 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   ***AC 500, 16, 8, 40 PIP 20 and Plateau 17
   RSBI Deferred: Hemodynamic Instability
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   SpO2: 97%
   ABG: 7.37/32/158/17/-5
   Ve: 9.1 L/min
   PaO2 / FiO2: 395
   Physical Examination
   GENERAL: Pt intubated. Sedated.  with myoclonic activity with
   stimulation
   HEENT: Sclera anicteric. Pupuls 3mm bilaterally, pupils with delayed
   reflex; dolls eyes positive
   NECK: Right IJ in place
   CARDIAC: Irregular with no murmur/rubs/gallops  distant heart sounds
   LUNGS: Course breath sounds anterior lung fields, no rhonchi/crackles.
   Unable to assess lower lobes given positioning.
   ABDOMEN: Difficult to assess given cool suit. Soft, ND.
   EXTREMITIES: 1+ dependent lower extremity edema. No clubbing/cyanosis
   appreciated. Distal extremities cool to touch.
   SKIN: No other rashes, bruising appreciated.
   PULSES:
   R: 1+ Radial, Diminished DP, PT
   L: 1+ Radial, DP, PT
   Neuro: Pupils 3mm equal and sluggilshly reactive to light. Increased
   tone in bilateral upper and lower extremity. Unable to illicit
   patellar, tricep, or bicep reflex. Bilateral upgoing toes.
   Labs / Radiology
   133 K/uL
   9.5 g/dL
   162 mg/dL
   4.6 mg/dL
   17 mEq/L
   4.3 mEq/L
   65 mg/dL
   103 mEq/L
   138 mEq/L
   30.9 %
   11.0 K/uL
        [image002.jpg]
                                     pH
                                    7.37
                                    pCO2
                                     32
                                     pO2
                                     158
                                    HCO3
                                     19
                                   BaseXS
                                     -5
   Lactate 3.1
                             [**2120-6-21**]  09:32 PM
                             [**2120-6-21**]  10:54 PM
                             [**2120-6-21**]  11:15 PM
                             [**2120-6-22**]  01:11 AM
                             [**2120-6-22**]  04:48 AM
                             [**2120-6-22**]  05:00 AM
                             [**2120-6-22**]  07:52 PM
                             [**2120-6-22**]  08:01 PM
                             [**2120-6-23**]  03:54 AM
                             [**2120-6-23**]  04:18 AM
   WBC
   12.2
   11.0
   Hct
   35.0
   30.9
   Plt
   141
   133
   Cr
   3.0
   3.5
   4.2
   4.6
   TCO2
   19
   19
   17
   18
   19
   19
   Glucose
   127
   141
   162
   162
   Other labs: PT / PTT / INR:31.0/40.9/3.1, CK / CKMB /
   Troponin-T:212/24/0.29, ALT / AST:52/63, Alk Phos / T Bili:98/1.0,
   Differential-Neuts:93.7 %, Lymph:3.8 %, Mono:2.3 %, Eos:0.2 %,
   D-dimer:4692 ng/mL, Fibrinogen:282 mg/dL, Lactic Acid:3.1 mmol/L,
   Albumin:3.5 g/dL, LDH:348 IU/L, Ca++:8.9 mg/dL, Mg++:2.3 mg/dL, PO4:6.4
   mg/dL
   Assessment and Plan
   73M with h/o severe cardiomyopathy (EF [**9-19**]) s/p biV/ICD ([**2115**]),  afib
   on coumadin and dig, rheumatic heart disease s/p mitral valve repair in
   [**2109**] with residual 3+ MR, CRI, h/o CVA who was found unreponsive and
   s/p cardiac arrest from unknown etiology with multiple rounds of ICD
   firing and ACLS/CPR now intubated, pressor support.
   .
   # s/p CARDIAC ARREST/ Cardiogenic Shock: Unclear precipitant, but
   etiologies of arrhythmia include electrolyte abnomalities such as
   hypokalemia, BiV/ICD anti-tachycardia pacing (ATP) inducing wide
   complex tachycardia for sensed atrial tachycardia, or arrythmia in
   setting of dig toxicity. Likely multifactorial as hypokalemia lowers
   threshold for arrythmias, predisposes to dig toxicity. By overnight  on
   day of admission ICD interrogation, patient had 6 episodes of
   ineffective ATP leading to shock with one episode at 11am, and one at
   4:46pm which may correlate with patient's episodes of unresponsiveness.
   Initial lytes showed hypokalemia, acidemia. No evidence of ACS as
   etiology.  Patient stable hemodynamically on milrinone and neo. Will
   attempt to wean
   - Continue Milrinone gtt to act as inotrope
   - Continue neosynephrine as needed to support blood pressure
   - Metoprolol and Amiodorone to prevent increased NSVT
   - when milrinone/neo have taken effect, start Lasix gtt in order to
   diurese
   - Q12hr lytes, including coags and closely follow K (will maintain
   >5.0)
   - cardiac arrest team and Neuro EEG ICU team aware and will be
   following patient, appreciate recs
   - ECHO: EF of [**9-24**]%
   - continuous EEG monitor, neuro will be following
   - defibrillator pads in place
   - patient on IV steroid clinical trial per protocol
   .
   # RHYTHM/WIDE COMPLEX TACHYCARDIA: Patient's ECGs showing irregular
   wide complex tachycardia concerning for polymorphic VT with possible
   positive concordance, which went in/out of pulseless VT/VF requiring
   shocks/ACLS/CPR for regaining of pulse. Unclear what rhythm patient in
   when pacer initiated ATP/shock and whether was appropriate. Currently
   patient with pulse, on pressor support. Patient's baseline rhythm was
   afib with ventricular pacing, BiV/ICD in place. On coumadin and digoxin
   at baseline. Recent INR was therapeutic, unclear compliance with
   medications.
   -  Give milrinone to smallest effective dose;
   -  Continue amiodorone po, and consider amio gtt if milrinone is to be
   increased
   -  monitor on telemetry
   - Continue Beta blocker
   - follow lytes closely, aggressively replete K (>5.0), Mg (>2)
   - follow INR, hold coumadin as supratherapeutic on admission
   - hold carvedilol while patient on pressor support
   - Hold Digoxin for now.
   .
   # PUMP/DECOMPENSATED SYSTOLIC CHF: Patient with known severe
   cardiomyopathy from valvular dz/NYHA IV sCHF with EF 10-15%. Followed
   by Dr [**First Name (STitle) **] in heart failure clinic. Recent OMR notes indicate increase
   in LE edema suggesting decompensated heart failure with plan for
   increase in lasix, but unclear if patient had been taking this. By
   exam, patient appears hypervolemic with elevated JVD, effusion on CXR,
   and LE edema. BNP [**Numeric Identifier 7772**]. Given 20mg IV lasix overnight with only 50cc
   of urine produced.
   - Continue milrinone/neo as above and wean off as tolerated
   - Hold carvedilol for now.
   - Hold Digoxin for now.
   - Continue metoprolol to aid with ectopy
   - Hold lasix for now as patient is not making much urine
   .
   # CORONARIES: No known CAD or risk factors. Clean coronaries on last
   cath [**2114**]. No h/o chest pain, no indication of ACS as cause of cardiac
   arrest at this time. Enzymes: CK / CKMB / Troponin-T:116/7/0.10;
   22/12.2/0.35; 22/12.2/0.29;
   - follow ECGs
   .
   # RESPIRATORY FAILURE: Patient intubated in setting of unresponsiveness
   and cardiac arrest. No known pulmonary history, but may be component of
   fluid overload from decompensated heart failure. ABG improved this AM
   - continue intubated for now, adjust vent settings to improve
   oxygenation
   - follow ABGs, and if INR continues to normalize,
   - diuresis with IV lasix as above
   - Wean ssedation as tolerated
   .
   # METABOLIC ACIDOSIS: Triple acid base disorder of primary AG metabolic
   acidosis likely [**1-8**] lactic acidosis and acute renal failure, with
   concomitant non gap metabolic acidosis and respiratory acidosis (from
   hypoventilation/unresponsiveness). Slightly improved after intubation,
   possible fluids in ED. Initial lactate 5.6, Cr up from 1.2-> 1.9
   overnight. ABG improving as well as lactate
   -          follow ABGs or VBG
s, adjust ventilator settings, follow
   lactate/renal function.
   -          Replete lytes. Hold on fluids given patient appears volume
   overloaded.
   .
   # ACUTE ON CHRONIC RENAL FAILURE: Cr increased to 2.6 from baseline of
   1.2-1.6. Likely in setting of poor forward flow during cardiac arrest
   in patient with low EF ->  ATN; Patient with less than 200 cc in past
   24 hours;
   - Minimize fluid intake
   - follow Cr
   - renally dose meds
   - monitor UOP
   - Consider renal consult for possible HD
   #Myoclonus- patient with myoclonus and decreased cortical activity on
   sedation; sedation  stopped for past 24 hours;
          -       Re-start sedation if patient cannot tolerate
   -          Neuro consulting and appreciate recs; call back when all
   sedation is out of system
   -      Neuro will re-assess further interventions
   #Leucocytosis-decreased from  WBC: 12.2 to 11.0 ; likely stress
   response but cannot rule out infection
   -          Blood cultures and re-check this afternoon
   -          If positive, consider antibiotics
   # DIC?: INR 6.5 and DIC panel suggestive of DIC. Patient given 4 units
   of FFP during IJ placement which helped his DIC.
          -        Continue to get [**Hospital1 **] DIC labs and give FFP as needed
          -        Continue to monitor and give vitamin K for the next
   three days.
   ..
   # Shock Liver: with increased AST/ALT during admission concern for
   shock liver. Labs show decreasing numbers and unlikely shock liver at
   this time
   -   daily AST/ALT to monitor
   #PROPHYLAXIS:
   -DVT ppx with supratherapeutic INR - if no longer therapeutic then
   start SC heparin
   -Pain management with fentanyl/versed and wean as tolerated
   .
   COMM: Daughter [**First Name8 (NamePattern2) 7755**] [**Known lastname 3746**] ([**Telephone/Fax (1) 7756**] (1^st person for updates),
   Sister [**Name (NI) 228**] [**Name (NI) 7679**] ([**Telephone/Fax (1) 7757**] (the HC proxy, makes all
   decisions). Update [**First Name8 (NamePattern2) 7758**] [**Last Name (NamePattern1) **] in AM, was contact[**Name (NI) **] overnight by
   cardiac arrest team.
   ICU Care
   Nutrition: NPO for now; start tube feeds today.
   Glycemic Control: TID fingersticks
   Lines: Right IJ, PIVs
   Multi Lumen - [**2120-6-20**] 07:00 PM
   Arterial Line: left arm
   Prophylaxis:
   DVT: supratherapeutic INR - if no longer therapeutic then start SC
   heparin
   Stress ulcer:
   VAP:  VAP bundle
   Comments:
   Communication:  Comments: Daughter [**First Name8 (NamePattern2) 7755**] [**Known lastname 3746**] ([**Telephone/Fax (1) 7756**], Sister
   [**Name (NI) 228**] [**Name (NI) 7679**] ([**Telephone/Fax (1) 7757**]. Update [**First Name8 (NamePattern2) 7758**] [**Last Name (NamePattern1) **] in AM, was contact[**Name (NI) **]
   overnight by cardiac arrest team.
   Code status: FULL CODE confirmed with family, ICU consent signed
   Disposition: CCU for now